US09102621B2
3-Chloro-2-isopropoxypyridine
To a 3-necked flask equipped with a dropping funnel, thermometer and a condenser was added sodium hydride (64.10 g, 60% w/w dispersion in oil, 1.07 mol) followed by THF (1.65 L). The suspension was cooled to 5° C. and iso-propanol (128 mL, 1.07 mol) was added dropwise over 50 minutes. Upon complete addition the ice bath was removed and the mixture was brought to room temperature and left to stir for 1 hour. Then 2,3-dichloropyridine (154.6 g, 1.11 mol) was added and the reaction mixture brought to a gentle reflux and left to stir for 18 hours. The reaction mixture was cooled to 5-10° C. and was carefully quenched with brine:water mixture (50:50; 100 mL) followed by water (300 mL). The aqueous layer was extracted with ethyl acetate (3×600 mL), the organic layers combined and washed with brine, dried over magnesium sulphate, filtered and evaporated in vacuo to give the title compound as a dark red oil (164 g, 89%).

reactant | sodium hydride | 1.07 mol, 64.10 g | [H-].[Na+]
reactant | iso-propanol | 1.07 mol, 128 mL | C(C)(C)O | C3H8O
reactant | 2,3-dichloropyridine | 1.11 mol, 154.6 g | ClC1=NC=CC=C1Cl | C5H3Cl2N
solvent | THF | 1.65 L | C1CCOC1 | C4H8O
product | 3-Chloro-2-isopropoxypyridine | 164 g, 89% | ClC=1C(=NC=CC1)OC(C)C | C8H10ClNO
